US06074650
X. N,S-Dipalmitoylcysteine tert.-butyl ester
Palmitic acid (2.5 g, 9.6 mmol), dimethylaminopyridine (130 mg, 0.9 mmol) and dicyclohexylcarbodiimide (9.6 mmol) are dissolved in 100 ml of chloroform. The solution is stirred for half an hour and N-palmitoylcysteine tert.-butyl ester (2 g, 4.8 mmol), which has previously been dissolved in 50 ml of chloroform, is added dropwise to the other solution. After 11/2 h, the solvent is removed in a rotary evaporator, and the residue is taken up in 100 ml of chloroform/methanol 1:5. The product forms a voluminous precipitate at -20 degrees C. It is filtered off with suction and dried under high vacuum.

reactant | Palmitic acid | 9.6 mmol, 2.5 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | dimethylaminopyridine | 0.9 mmol, 130 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 9.6 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-palmitoylcysteine tert.-butyl ester | 4.8 mmol, 2 g | C(C)(C)(C)OC([C@@H](NC(CCCCCCCCCCCCCCC)=O)CS)=O | C23H45NO3S
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N,S-Dipalmitoylcysteine tert.-butyl ester | C(C)(C)(C)OC([C@@H](NC(CCCCCCCCCCCCCCC)=O)CSC(CCCCCCCCCCCCCCC)=O)=O | C39H75NO4S
